US06251926B1
Ethyl Z-3-methyl-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]butyrate (580 mg) was dissolved in tetrahydrofuran (6 ml)-methanol (3 ml), and 1N aqueous solution of sodium hydroxide (3 ml) was added and the mixture was stirred for 3 hours at room temperature. 1N HCl (3.3 ml) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride, dried (MgSO4) and then concentrated. The residual crystals were recrystallized from ethyl acetate-hexane to obtain Z-3-methyl-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]butyric acid (523 mg, yield 96%) as colorless crystals. m.p. 140-142° C.

reactant | Ethyl Z-3-methyl-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]butyrate | 580 mg | CC(/C(/C(=O)OCC)=N/OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)C | C25H28N2O5
reactant | HCl | 1N, 3.3 ml | Cl | ClH
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | methanol | 3 ml | CO | CH4O
solvent | sodium hydroxide | 3 ml | [OH-].[Na+]
product | Z-3-methyl-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]butyric acid | 523 mg, yield 96% | CC(/C(/C(=O)O)=N/OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)C | C23H24N2O5
